US06716843B2
(S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-cyclohexanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, cyclohexanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | cyclohexanesulphonyl chloride | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-cyclohexanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)C1CCCCC1)C(N1CCCC1)=O | InChI=1S/C15H29N3O3S.ClH/c16-14(15(19)18-11-4-5-12-18)9-6-10-17-22(20,21)13-7-2-1-3-8-13;/h13-14,17H,1-12,16H2;1H/t14-;/m0./s1
